US05691349
A 1M solution of lithium aluminium hydroxide in tetrahydrofuran (3.0 ml) was added dropwise over 15 minutes to a stirred suspension of 3-[2-(4-bromophenyl)ethynyl]-3-hydroxyquinuclidine (918 mgs) in dry tetrahydrofuran (20 ml) at ambient temperature, under an atmosphere of argon. A complete solution formed as the addition progressed. The mixture was then stirred for 2 days at ambient temperature. A 2.0M solution of sodium hydroxide was then added dropwise to destroy the complex. The mixture was evaporated to dryness and the residue was purified by flash column chromatography on silica gel using 10% methanol in dichloromethane containing 1% ammonia (density, 0.88 g/cm3) to give [3-[2-(4-bromophenyl)-ethenyl]-3-hydroxyquinuclidine which was further purified by crystallisation from ethanol (210 mg) m.p. 218°-219° C.; NMR: 1.25(1H,m), 1.5(1H,m), 1.69(2H,m), 2.0(1H,m), 2.7(5H,m), 2.9(1H,d), 4.8(1H,s), 6.58(1H,d), 6.68(1H,d) and 7.42(4H,m).

reactant | lithium aluminium hydroxide | [OH-].[Al+3].[Li+].[OH-].[OH-].[OH-]
reactant | 3-[2-(4-bromophenyl)ethynyl]-3-hydroxyquinuclidine | 918 mgs | BrC1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C15H16BrNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[2-(4-bromophenyl)-ethenyl]-3-hydroxyquinuclidine | BrC1=CC=C(C=C1)C=CC1(CN2CCC1CC2)O | C15H18BrNO
